US07786132B2
(i) 2-Bromo-1-(5-bromothiophen-2-yl)ethanone
1-(5-Bromothiophen-2-yl)ethanone (1 g, 4.87 mmol) was dissolved in glacial acetic acid (5 mL) and treated with bromine (0.25 mL) in acetic acid (2 mL) added dropwise. The reaction was stirred at ambient temperature overnight. The volatiles were removed in vacuo while care was taken so as to keep the bath temperature under 40° C. The residue was dissolved in dichloromethane, washed with saturated aqueous sodium bicarbonate, water and brine. The organic layer was then dried with sodium sulfate, concentrated and purified by flash chromatography using a gradient of 10 to 30% of ethyl acetate in hexanes to yield a off-white solid (0.85 g).

reactant | 1-(5-Bromothiophen-2-yl)ethanone | 4.87 mmol, 1 g | BrC1=CC=C(S1)C(C)=O | C6H5BrOS
reactant | bromine | 0.25 mL | BrBr | Br2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-Bromo-1-(5-bromothiophen-2-yl)ethanone | 0.85 g | BrCC(=O)C=1SC(=CC1)Br | C6H4Br2OS
